US06894042B2
A mixture of 1-(2,3-dihydrobenzofuran-5-yl)ethanone (4.0 g, 25 mmol) and sodium hypochlorite [160 mL of a 6.0% aqueous solution, (Clorox brand of bleach)] at 55° C. is stirred for 1 h. The mixture (now homogeneous) is cooled to rt and solid sodium bisulfite is added until a clear color persists. Hydrochloric acid (80 mL of a 1.0 N aqueous solution) is added, followed by extraction with EtOAc. The organic layer is washed with brine, dried (MgSO4), filtered, and concentrated in vacuo to afford 3.93 g (97%) of 2,3-dihydrobenzofuran-5-carboxylic acid as a white solid. 1H NMR (400 MHz, CDCl3) δ 11.0-10.3, 8.00, 6.87, 4.72, 3.31.

reactant | 1-(2,3-dihydrobenzofuran-5-yl)ethanone | 25 mmol, 4.0 g | O1CCC2=C1C=CC(=C2)C(C)=O | C10H10O2
reactant | sodium hypochlorite | Cl[O-].[Na+]
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
reactant | Hydrochloric acid | Cl | ClH
product | 2,3-dihydrobenzofuran-5-carboxylic acid | 3.93 g, 97% | O1CCC2=C1C=CC(=C2)C(=O)O | C9H8O3
